US06583135B2
The racemate was resolved by chiral support chromatography. Portions of the racemate (0.2 g dissolved in 10 mL of 3:1 iPrOH/THF) were injected onto a preparative Chiralcel OD™ column equilibrated at 30° C. with 800:200:1 heptane/iPrOH/Et3N. Assignment of absolute configurations to the separated enantiomers was made by comparison of the CD spectra to those of the 10-chloro structures. Analytical HPLC analysis (tR=17.2 min on a Chiralcel™ OD-H at a 0.5 mL min−1 flow rate of 800:200:1 hepane/iPrOH/Et2NH) gave an ee of 97%: UV λmax nm (ε, L·mol−1·cm−1) 284 (4740); CD λmax nm (θ, deg·cm2·mol−1) 298 (3700), 273 (4400).

reactant | heptane iPrOH Et3N | CCCCCCC.CC(C)O.CCN(CC)CC
solvent | iPrOH THF | 10 mL | CC(C)O.C1CCOC1
product | iPrOH Et2NH | CC(C)O.N(CC)CC | InChI=1S/C4H11N.C3H8O/c1-3-5-4-2;1-3(2)4/h5H,3-4H2,1-2H3;3-4H,1-2H3
